US07842686B2
2-(2-Ethyl-3-oxo-2H-benzo[b][1,4]oxazin-4(3H)-yl)acetic Acid
To a solution of 2-ethyl-2H-benzo[b][1,4]oxazin-3(4H)-one (1.5 mmol, 260 mg) in DMF (2 ml) was added NaH (1.8 mmol, 43 mg) and the reaction mixture was stirred at room temperature for 1 h before the dropwise addition of ethyl bromoacetate (1.5 mmol, 250 mg). The reaction mixture was stirred at room temperature overnight, diluted with water and extracted with ethyl acetate. The organic layer was washed with 1N HCl, Sat. NaHCO3, dried over Na2SO4 and evaporated to dryness. The crude compound was dissolved in MeOH (3 ml) and 1 N NaOH (3 ml) and stirred for 2 h at room temperature. The MeOH was removed under reduced pressure and the resulting aqueous solution extracted with EtOAc. The aqueous layer was acidified to pH 2 with 1N HCl and extracted with EtOAc. The organic phase was dried over Na2SO4 and the solvent was evaporated to give the title compound. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=236; tR=2.4.

reactant | 2-ethyl-2H-benzo[b][1,4]oxazin-3(4H)-one | 1.5 mmol, 260 mg | C(C)C1C(NC2=C(O1)C=CC=C2)=O | C10H11NO2
reactant | NaH | 1.8 mmol, 43 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 1.5 mmol, 250 mg | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2-Ethyl-3-oxo-2H-benzo[b][1,4]oxazin-4(3H)-yl)acetic Acid | C(C)C1C(N(C2=C(O1)C=CC=C2)CC(=O)O)=O | C12H13NO4
